US04568687
N-[3-(1H-imidazol-1-yl)propyl]benzenepropanamide
A mixture of 1.50 g. of 3-phenylpropionic acid, 1.62 g. of 1,1'-carbonyldiimidazole, and 40 ml. of tetrahydrofuran was stirred for 3 hours and 2.0 g. of 1H-imidazole-1-propanamine was added. The mixture was stirred for 18 hours, 5 ml. of water was added, and the reaction mixture was heated at reflux temperature for 30 minutes. The mixture was concentrated and 10 ml. 1N sodium hydroxide and 100 ml. of methylene chloride were added. The layers were separated and the organic layer was washed with water, dried over magnesium sulfate, and concentrated. The desired product was obtained as an oil, which was converted to the fumarate salt, m.p. 90°-92° C.

reactant | 3-phenylpropionic acid | C1(=CC=CC=C1)CCC(=O)O | C9H10O2
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 1H-imidazole-1-propanamine | N1(C=NC=C1)CCCN | C6H11N3
solvent | water | O | H2O
product | N-[3-(1H-imidazol-1-yl)propyl]benzenepropanamide | N1(C=NC=C1)CCCNC(CCC1=CC=CC=C1)=O | C15H19N3O
